US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (1.1 g, 7.7 mmol) was dissolved in anhydrous DMF (40 mL), then potassium carbonate (3.19 g, 23.1 mmol) and 5-(chloromethyl)-1-cyclohexyl-1H-imidazole hydrochloride (8.5 mmol) in DMF (10 mL) were added. The mixture was stirred for 3.5 hours at room temperature. The solid was removed by filtration and washed with methanol, and the filtrate was evaporated. The residue was dissolved in DCM/MeOH and purified on silica gel using 12% DCM/MeOH to afford 2-{[(1-cyclohexyl-1H-imidazol-5-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol (770 mg, 44% yield); 1H NMR (500 MHz, DMSO-d6): δ 1.17-1.30 (m, 2H), 1.62-1.67 (m, 4H), 1.77-1.81 (m, 2H), 1.92-1.95 (m, 2H), 2.23 (s, 3H). 3.92-3.96 (m, 1H), 4.51 (s, 2H), 6.03 (s, 1H), 6.85 (s, 1H), 7.75 (s, 1H).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 7.7 mmol, 1.1 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 23.1 mmol, 3.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(chloromethyl)-1-cyclohexyl-1H-imidazole hydrochloride | 8.5 mmol | Cl.ClCC1=CN=CN1C1CCCCC1
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{[(1-cyclohexyl-1H-imidazol-5-yl)methyl]sulfanyl)-6-methylpyrimidin-4-ol | 770 mg, 44% yield | C1(CCCCC1)N1C=NC=C1CSC1=NC(=CC(=N1)O)C | C15H20N4OS
